US08859541B2
2-(methylamino)-N-[6-(2-phenylethynyl)-4-(trifluoromethyl)pyridin-2-yl]propanamide
A mixture of 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid (620 mg, 3.05 mmol) and N,N′-dicyclohexylcarbodiimide (315 mg, 1.53 mmol) in DCM (4 ml) is stirred at RT for 30 minutes. This mixture is added to 6-(2-phenylethynyl)-4-(trifluoromethyl)pyridin-2-amine B3b (100 mg, 0.38 mmol) and DIPEA (73 μl; 0.42 mmol) in NMP (5 ml). After stirring for 6 days at 50° C. the reaction mixture is concentrated in vacuo and the boc-protected product purified by NP chromatography. The boc-protected product is treated with DCM:TFA (9:1, 4 ml) for 1.5 h at RT. This mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 10.2 mg (8%). HPLC-MS: M+H=348; tR=1.46 (*Method—1).

reactant | 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid | 3.05 mmol, 620 mg | CN(C(C(=O)O)C)C(=O)OC(C)(C)C | C9H17NO4
reactant | N,N′-dicyclohexylcarbodiimide | 1.53 mmol, 315 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-(2-phenylethynyl)-4-(trifluoromethyl)pyridin-2-amine | C1(=CC=CC=C1)C#CC1=CC(=CC(=N1)N)C(F)(F)F | C14H9F3N2
reactant | DIPEA | 0.42 mmol, 73 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 2-(methylamino)-N-[6-(2-phenylethynyl)-4-(trifluoromethyl)pyridin-2-yl]propanamide | CNC(C(=O)NC1=NC(=CC(=C1)C(F)(F)F)C#CC1=CC=CC=C1)C | C18H16F3N3O
